US07247645B2
2) Synthesis of 5,5-diphenyl-2-pentene-1-ol:
2.22 mg (7.92 mmol) of ethyl 5,5-diphenyl-2-pentenoate was dissolved in 30 ml of dichloromethane. 16.1 ml (15.1 mmol) of diisobutylaluminum hydride (0.94 mol/L: hexane solution) was added to the obtained solution under cooling with ice, and they were stirred at room temperature for 2 days. Water was added to the reaction mixture and they were stirred under cooling with ice. The precipitate thus formed was filtered through Celite. The precipitate was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by the silica gel chromatography (hexane/ethyl acetate=3/1 to 1/1) to obtain the title compound.

reactant | ethyl 5,5-diphenyl-2-pentenoate | 7.92 mmol, 2.22 mg | C1(=CC=CC=C1)C(CC=CC(=O)OCC)C1=CC=CC=C1 | C19H20O2
reactant | diisobutylaluminum hydride | 15.1 mmol, 0.94 mol/L, 16.1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5,5-diphenyl-2-pentene-1-ol | C1(=CC=CC=C1)C(CC=CCO)C1=CC=CC=C1 | C17H18O
